US05968985
To a mixture of methyl 3-carboxymethoxy-5-hydroxybenzoate (2 g), N,N-dimethylethylenediamine (1.07 ml) and 1-hydroxybenzotriazole (1.31 g) in N,N-dimethylformamide (40 ml) was added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide (1.86 g) under ice cooling. After stirring at room temperature for 5 hours, the solvent of the reaction mixture was removed under reduced pressure. The residue was purified by column chromatography on aluminum eluting with a mixture of chloroform and methanol (20:1 to 5:1). The fractions containing the desired product were collected and evaporated in vacuo. Then the residue was triturated with diethyl ether, collected by filtration and washed with diethyl ether to give methyl 3-[(2-dimethylaminoethyl)carbamoylmethoxy]-5-hydroxybenzoate (1.94 g).

reactant | methyl 3-carboxymethoxy-5-hydroxybenzoate | 2 g | C(=O)(O)COC=1C=C(C(=O)OC)C=C(C1)O | C10H10O6
reactant | N,N-dimethylethylenediamine | 1.07 ml | CN(CCN)C | C4H12N2
reactant | 1-hydroxybenzotriazole | 1.31 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide | 1.86 g | C(C)N=C=NCCCN(C)C | C8H17N3
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | methyl 3-[(2-dimethylaminoethyl)carbamoylmethoxy]-5-hydroxybenzoate | 1.94 g | CN(CCNC(=O)COC=1C=C(C(=O)OC)C=C(C1)O)C | C14H20N2O5
